US08957068B2
To a solution of (S)-tert-butyl (1-(2-benzoylhydrazinyl)-1-oxopropan-2-yl)carbamate (155 mg, 0.5 mmol, 1.0 equv. in 5 ml of THF) was added Lawesson's reagent (36.4 mg, 0.5 mmol, 1.0 equv.) the reaction mixture was stirred at reflux for 3 hours, the reaction mixture was filtered and the solvent was removed to yield the crude product. Silica gel column chromatography (ethyl acetate in heptane 10 to 50%) to provide (S)-tert-butyl (1-(5-phenyl-1,3,4-thiadiazol-2-yl)ethyl)carbamate (114.6 mg, white solid) in 70.7% yield. 1H NMR (400 MHz, CD2Cl2) δ 7.94-7.72 (m, 2H), 7.52-7.26 (m, 3H), 5.59 (b, 1H), 5.11 (b, 1H), 1.57 (d, J=7.0 Hz, 3H), 1.34 (s, 9H).

reactant | (S)-tert-butyl (1-(2-benzoylhydrazinyl)-1-oxopropan-2-yl)carbamate | 0.5 mmol, 5 ml, 155 mg | C(C1=CC=CC=C1)(=O)NNC([C@H](C)NC(OC(C)(C)C)=O)=O | C15H21N3O4
reactant | Lawesson's reagent | 0.5 mmol, 36.4 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | heptane | CCCCCCC | C7H16
product | (S)-tert-butyl (1-(5-phenyl-1,3,4-thiadiazol-2-yl)ethyl)carbamate | 114.6 mg, 70.7% yield | C1(=CC=CC=C1)C1=NN=C(S1)[C@H](C)NC(OC(C)(C)C)=O | C15H19N3O2S
